US08895544B2
6-[2-Ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboximidic acid methyl ester
To a solution of 6-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile (Preparation 6, 37.42 g, 75.6 mmol) in methanol (700 mL) was added sodium methoxide (12.21 g, 226.8 mmol) and the reaction mixture was then stirred at room temperature for 18 hours. The solvent was removed in vacuo and the residue was partitioned between EtOAc (1 L) and water (500 mL). The organic layer was washed with water (500 mL), dried over MgSO4 and concentrated in vacuo to give the title compound as a gum (37.26 g) in a 94% yield.

reactant | 6-[2-ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile | 75.6 mmol, 37.42 g | C(C)C1=C(C=C(C(=C1)OCOCC[Si](C)(C)C)F)C1=CC=C2C(=NN(C2=C1)C1OCCCC1)C#N | C27H34FN3O3Si
reactant | sodium methoxide | 226.8 mmol, 12.21 g | C[O-].[Na+]
solvent | methanol | 700 mL | CO | CH4O
product | 6-[2-Ethyl-5-fluoro-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboximidic acid methyl ester | 37.26 g, 94% yield | COC(=N)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C(=C1)F)OCOCC[Si](C)(C)C)CC)C1OCCCC1 | C28H38FN3O4Si
